US04774253
A mixture of 4.9 g (25 mmol) of 5-chlorothiophene N-hydroxycarboximidoyl chloride and 4.54 g (27 mmol) of methyl 2-propynyloxy-2-methylpropionate in 180 ml of dry diethyl ether was treated with a solution of 2.53 g (25 mmol) of triethylamine in 20 ml of dry diethyl ether while stirring under nitrogen. After 3 days at 20° C. the mixture was filtered and the filtrate was evaporated to give 6.6 g of crude methyl 2-[[3-(5-chlorothien-2-yl)-5-isoxazolyl]methoxy]-2-methylpropionate in the form of an oil. 6.3 g of this oil, without further purification, were hydrolyzed in a manner analogous to that described in Example 12 to yield, after crystallization from ethyl acetate/hexane 2.1 g (28%) of 2-[[3-(5-chlorothien-2-yl)-5-isoxazolyl]methoxy]-2-methylpropionic acid of melting point 128°-130° C.

reactant | 5-chlorothiophene | 25 mmol, 4.9 g | ClC1=CC=CS1 | C4H3ClS
reactant | methyl 2-propynyloxy-2-methylpropionate | 27 mmol, 4.54 g | C(#CC)OC(C(=O)OC)(C)C | C8H12O3
reactant | triethylamine | 25 mmol, 2.53 g | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | 180 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | methyl 2-[[3-(5-chlorothien-2-yl)-5-isoxazolyl]methoxy]-2-methylpropionate | 6.6 g | ClC1=CC=C(S1)C1=NOC(=C1)COC(C(=O)OC)(C)C | C13H14ClNO4S
